US07754772B2
44a. (2R)-2-hydroxy-3-(phenylmethoxy)propyl (2S)-2-(6-methoxy(2-naphthyl))propanoate
A solution of (2S)-2-(6-methoxy(2-naphthyl))propanoic acid (naproxen, 3.70 g, 16.1 mmol), (R)-(+)-3-benzyloxy-1,2-propanediol (2.92 g, 19.0 mmol), N,N-dimethylaminopyridine (DMAP, 0.40 g, 3.3 mmol) and 1,3-dicyclohexylcarbodiimide (3.61 g, 17.5 mmol) in CH2Cl2 (120 mL) was stirred at ambient temperature overnight. The byproduct, dicyclohexyl urea, was removed by filtration. The reaction mixture was partitioned between HCl (3N, 50 mL) and CH2Cl2 (50 mL×2). The combined organic extracts were back washed with water, brine, dried over Na2SO4, filtered, concentrated and dried under vacuum. The product was separated by silica gel column chromatography eluting with EtOAc:hexane (1:2, Rf=0.23) to give a mixture of the 1- and 2-glycerol ester isomers (88:12, 3.87 g). 1H NMR (300 MHz, CDCl3) δ 7.69-7.64 (m, 3H), 7.40-7.03 (m, 8H), 5.34 (s, 2H), 4.17-4.14 (m, 2H), 3.88 (s, 3H), 3.9-3.85 (m, 2H), 3.33-3.28 (m, 2H), 2.45 (br. d, 1H), 1.56 (d, J=7.2 Hz, 3H). 13C NMR (75 MHz, CDCl3) δ 174.6, 157.6, 137.6, 135.4, 133.6, 129.6, 129.2, 128.8, 128.3, 127.7, 127.61, 127.55, 127.1, 126.1, 125.9, 119.0, 105.5, 73.3, 70.6, 68.8, 65.5, 62.2, 55.2, 45.3, 18.3. Mass spectrum (API-TIS) m/z 412 (M+NH4)+.

reactant | (2S)-2-(6-methoxy(2-naphthyl))propanoic acid | 16.1 mmol, 3.70 g | COC=1C=C2C=CC(=CC2=CC1)[C@@H](C(=O)O)C | C14H14O3
reactant | (R)-(+)-3-benzyloxy-1,2-propanediol | 19.0 mmol, 2.92 g | C(C1=CC=CC=C1)OC[C@@H](CO)O | C10H14O3
reactant | 1,3-dicyclohexylcarbodiimide | 17.5 mmol, 3.61 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | CH2Cl2 | 120 mL | C(Cl)Cl | CH2Cl2
product | (2R)-2-hydroxy-3-(phenylmethoxy)propyl (2S)-2-(6-methoxy(2-naphthyl))propanoate | COC=1C=C2C=CC(=CC2=CC1)[C@@H](C(=O)OC[C@@H](COCC1=CC=CC=C1)O)C | C24H26O5
